US05271867
In a reactor were placed 113 g of anhydrous aluminum chloride and 600 1 of methylene chloride, to which was added 113 g of acetylchloride under stirring at 0° C. or less. Subsequently, a solution of 100 g of 2-fluoro-4-bromobiphenyl in 400 ml methylene chloride was added dropwise, stirred and reacted together for 7 hours while increasing the temperature up to room temperature. After adding the reaction solution to ice/dilute hydrochloric acid, the methylene chloride layer was washed sequentially with water, aqueous sodium hydrogencarbonate solution, and water, followed by dehydration over Glauber's salt and distillation of the solvent. The remaining fraction was recrystallized with acetone to obtain 2-fluoro-4-bromo-4'-acetylbiphenyl.

reactant | aluminum chloride | 113 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetylchloride | 113 g | C(C)(=O)Cl | C2H3ClO
reactant | 2-fluoro-4-bromobiphenyl | 100 g | FC1=C(C=CC(=C1)Br)C1=CC=CC=C1 | C12H8BrF
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 2-fluoro-4-bromo-4'-acetylbiphenyl | FC1=C(C=CC(=C1)Br)C1=CC=C(C=C1)C(C)=O | C14H10BrFO
